US04128658
A mixture of 2-furanmethanol (49 g), methylamine hydrochloride (51.5 g) and 36% formaldehyde solution (50 ml) was stirred at 0°-3° for 3 hr and allowed to stand for 16 hr. Excess sodium carbonate was added and the slurry extracted with ethyl acetate. After removal of solvent the residue was distilled to give 5-(methylamino)methyl-2-furanmethanol (36.2 g) b.p. 111°-113° (0.2 mm).

reactant | 2-furanmethanol | 49 g | O1C(=CC=C1)CO | C5H6O2
reactant | methylamine hydrochloride | 51.5 g | Cl.CN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | formaldehyde | 50 ml | C=O | CH2O
product | 5-(methylamino)methyl-2-furanmethanol | 36.2 g | CNCC1=CC=C(O1)CO | C7H11NO2
